US09238640B2
Preparation of 2-(4-(1,4-Diazepan-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
A mixture of 2-(4-(4-acetyl-1,4-diazepan-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (0.135 g, 0.32 mmol) and 2 N HCl (10 mL) was heated at 100° C. for 4 hours. Then, the reaction mixture was cooled to room temperature, basified to pH 8, and extracted with CH2Cl2 (8×125 mL). The residue was purified by flash chromatography on silica gel, eluting with 1:1 CH2Cl2/92:7:1 CHCl3/MeOH/concentrated NH4OH to 100% 92:7:1 CHCl3/MeOH/concentrated NH4OH, to afford the title compound (0.040 g, 33%) as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 8.98 (s, 1H), 7.86 (d, J=9.0 Hz, 2H), 6.76-6.79 (m, 3H), 6.40 (d, J=2.3 Hz, 1H), 3.98 (s, 3H), 3.92 (s, 3H), 3.61-3.69 (m, 5H), 3.05 (t, J=4.9 Hz, 2H), 2.83 (t, J=5.7 Hz, 2H), 1.92 (t, J=5.4 Hz, 2H). ESI MS m/z 379 [M−H]−.

reactant | 2-(4-(4-acetyl-1,4-diazepan-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.32 mmol, 0.135 g | C(C)(=O)N1CCN(CCC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C23H26N4O4
solvent | HCl | 2 N, 10 mL | Cl | ClH
product | 2-(4-(1,4-Diazepan-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.040 g, 33% | N1(CCNCCC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C21H24N4O3
